US06951864B2
4-[2-(3-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-6-pyridin-4-yl-pyrimidine
A mixture of 4-chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine (268 mg, 0.81 mmol), 4-tributylstannanyl-pyridine (1.21 mmol), Pd(PPh3)4 (0.08 mmol, 93 mg) in toluene (10 mL) is degassed. The mixture is then heated at 100° C. overnight. Saturated KF aqueous solution (8 mL) is added and the mixture is stirred for 15 minutes. The layers are separated and the aqueous layer is extracted with EtOAc (10 mL). The combined extracts are washed with brine (15 mL), dried (Na2SO4), and evaporated. Preparative TLC (5% methanol in DCM) purification of the residue provides the title product. 1H NMR (CDCl3) 8.95 (s, 1H), 8.65 (d, 1H), 8.26 (d, 1H), 7.77-7.84 (m, 2H), 7.49 (t, 1H), 7.34 (t, 1H), 7.30 (s, 1H), 7.19-7.22 (m, 1H), 7.14 (s, 1H), 5.92 (s, 2H), 2.87-2.91 (m, 2H), 1.46-1.52 (m, 2H), 0.81 (t, 3H).

reactant | 4-chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine | 0.81 mmol, 268 mg | ClC1=NC=NC(=C1CCC)CN1C(=NC=C1)C1=NC=CC=C1F | C16H15ClFN5
reactant | 4-tributylstannanyl-pyridine | 1.21 mmol | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.08 mmol, 93 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-(3-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-6-pyridin-4-yl-pyrimidine | FC=1C(=NC=CC1)C=1N(C=CN1)CC1=NC=NC(=C1CCC)C1=CC=NC=C1 | C21H19FN6
